US07795257B2
The title C compound, 3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-2-(4-nitro-phenyl)-propionamide (12 g, 28.2 mmol) is diluted with 160 mL of ethanol and 150 mL acetic acid. 8 g of iron powder (325 mesh, 0.14 mol) is added and the mixture heated to reflux. Once reflux begins the mixture is stirred vigorously and then heating is discontinued and the mixture is allowed to cool slowly. The solvents are removed and the residue is treated with 250 mL of water. Saturated sodium bicarbonate is added carefully to bring the mixture to a pH of 8-9. The mixture is extracted with ethyl acetate, washed with brine, dried and evaporated to give an orange solid which is triturated from hexane. The resulting solid is collected by filtration to afford 2-(4-amino-phenyl)-3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-propionamide: 1H NMR (400 MHz, CDCl3) δ 1.0-1.1 (m, 2H), 1.4-1.8 (m, 5H), 1.8-1.9 (m, 2H), 2.1-2.25 (m, 2H), 3.6 (t, 1H, J=7.8), 3.98 (s, 3H), 6.7 (d, 1H, J=8.8), 6.8 (d, 2H, J=8.6), 7.2 (d, 2H, J=8.6), 7.8 (d, 1H, J=8.8); LC/MS 397 (M+1).

reactant | 3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-2-(4-nitro-phenyl)-propionamide | 28.2 mmol, 12 g | C1(CCCC1)CC(C(=O)NC=1SC2=NC(=CC=C2N1)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N4O4S
solvent | ethanol | 160 mL | C(C)O | C2H6O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.14 mol, 8 g | [Fe] | Fe
product | 2-(4-amino-phenyl)-3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-propionamide | NC1=CC=C(C=C1)C(C(=O)NC=1SC2=NC(=CC=C2N1)OC)CC1CCCC1 | C21H24N4O2S
